US06395733B1
(3-Ethynyl-phenyl)-{7-[2-(2-methoxy-ethoxy)-ethyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-amine
Utilizing a procedure analogous to that described in Example 47, this product was prepared in 81% yield from 4-chloro-7-[2-(2-methoxy-ethoxy)-ethyl]-7H-pyrrolo[2,3-d]pyrimidine (1.0 eq) and m-aminophenyl acetylene (1.2 eq) in methanol. M.P. 240-241° C.; LC-MS: 336 (M+); RP18HPLC RT: 4.29 min.

reactant | 4-chloro-7-[2-(2-methoxy-ethoxy)-ethyl]-7H-pyrrolo[2,3-d]pyrimidine | 1.0 eq | ClC=1C2=C(N=CN1)N(C=C2)CCOCCOC | C11H14ClN3O2
reactant | m-aminophenyl acetylene | 1.2 eq | NC=1C=C(C=CC1)C#C | C8H7N
solvent | methanol | CO | CH4O
product | (3-Ethynyl-phenyl)-{7-[2-(2-methoxy-ethoxy)-ethyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}-amine | 81% yield | C(#C)C=1C=C(C=CC1)NC=1C2=C(N=CN1)N(C=C2)CCOCCOC | C19H20N4O2
